US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[6-(pyrrolidin-1-ylmethyl)pyridin-3-ylamino]quinolin-3-yl}methanone
Following general procedure F, {6-Bromo-4-[6-(pyrrolidin-1-ylmethyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone (45 mg, 0.100 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.150 mmol) to afford the desired product (34 mg, 64%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.40 (s, 1H), 8.72 (d, J=2.5 Hz, 1H), 8.30 (dd, J=8.8, 2.0 Hz, 1H), 8.16-8.06 (m, 2H), 7.96 (dd, J=8.3, 2.5 Hz, 1H), 7.65 (d, J=8.3 Hz, 1H), 7.46 (s, 2H), 4.65 (s, 2H), 3.63-3.59 (m, 2H), 3.21-3.12 (m, 2H), 2.85-2.76 (m, 1H), 2.20-2.16 (m, 2H), 2.09-2.01 (m, 2H), 1.20-1.10 (m, 4H); ESI MS m/z 533 [C29H26Cl2N4O2+H]+; HPLC 98.8% (AUC), tR=10.76 min.

reactant | {6-Bromo-4-[6-(pyrrolidin-1-ylmethyl)pyridin-3-ylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.100 mmol, 45 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)CN1CCCC1 | C23H23BrN4O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[6-(pyrrolidin-1-ylmethyl)pyridin-3-ylamino]quinolin-3-yl}methanone | 34 mg, 64% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)CN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C29H26Cl2N4O2
